US04212757
Diphenylphosphinic Chloride
Thirteen grams (0.064 m) of diphenylphosphinic acid was combined with 50 ml of thionyl chloride and the mixture heated at reflux for 2.5 hours. The diphenylphosphinic chloride was purified by distillation, bp 140° C. at 0.1 torr.

reactant | diphenylphosphinic acid | Thirteen grams | C1(=CC=CC=C1)P(O)(=O)C1=CC=CC=C1 | C12H11O2P
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | Diphenylphosphinic Chloride | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
